US06376664B1
A solution of silver perchlorate (4.75 g, 23 mmol) in water (10 mL) was added to a solution of 4-bromomethyl-2,1,3-benzothiadiazole (4.38 g, 19 mmol) in 1,4-dioxane. The mixture was refluxed for 4 hours to afford a light-yellow suspension. After cooling to room temperature, the precipitate was filtered off through a pad of celite and washed with CH2Cl2. The filtrate was washed with water and brine, dried over Na2SO4. Concentration using a rotary evaporator and subsequent column chromatography on silica gel using hexane/ethyl acetate (5:1) as the eluent afforded 4-hydroxymethyl-2,1,3-benzothiadiazole (2.0 g, 63%) as a light-yellow solid. Rf=0.23 (hexane/ethyl acetate=5:1); 1H NMR (200 MHz, CDCl3) δ2.73 (t,J=6.4 Hz, 1H), 5.18 (d,J=6.4 Hz, 2H), 7.58 (m, 2H), 7.94 (m, 1H); HRMS:Calcd. for C7H6N2OS 166.0201, found 166.0219.

reactant | 4-bromomethyl-2,1,3-benzothiadiazole | 19 mmol, 4.38 g | BrCC1=CC=CC2=NSN=C21 | C7H5BrN2S
reactant | water | 10 mL | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | silver perchlorate | 23 mmol, 4.75 g | Cl(=O)(=O)(=O)[O-].[Ag+]
product | 4-hydroxymethyl-2,1,3-benzothiadiazole | 2.0 g, 63% | OCC1=CC=CC2=NSN=C21 | C7H6N2OS
